US04973600
A solution of 12.2 ml of 1.6M n-butyl lithium in hexane is added dropwise to a solution of 2.45 g of 1-ethoxymethyl-pyrazole in 50 ml of tetrahydrofuran at -60° to -50° C. under argon gas atmosphere and the mixture is stirred at the same temperature for 40 minutes. A solution of 5.23 g of lithium 4,5-dichloro-6-formyl-1,3-benzodioxole-2-carboxylate in 40 ml of hexamethylphosphoric triamide is added dropwise to the reaction mixture at -60° to -50° C. and the mixture is stirred at the same temperature for 30 minutes. An aqeous saturated ammonium chloride solution and 1N hydrochloric acid are added to the reaction mixture, and the mixture is extracted with ethyl acetate. An excess amount of a solution of diazomethane in ether is added to the extract (the extract contains 4,5-dichloro-6-[(1-ethoxymethylpyrazol-5-yl)-hydroxymethyl]-1,3-benzodioxole-2-carboxylic acid) and the mixture is stirred for 10 minutes. The mixture is evaporated to remove solvent and the residue is purified by silica gel column chromatography (solvent: chloroform-acetone-ethanol) to give 5.9 g of methyl 4,5-dichloro-6-[(1-ethoxymethyl-pyrazol-5-yl)-hydroxymethyl]-1,3-benzodioxole-2-carboxylate (a mixture of diastereoisomers thereof) as an oil. Yield: 75%

reactant | n-butyl lithium | 1.6M, 12.2 ml | C(CCC)[Li]
reactant | 1-ethoxymethyl-pyrazole | 2.45 g | C(C)OCN1N=CC=C1 | C6H10N2O
reactant | lithium 4,5-dichloro-6-formyl-1,3-benzodioxole-2-carboxylate | 5.23 g | ClC1=C(C(=CC=2OC(OC21)C(=O)[O-])C=O)Cl.[Li+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | hexamethylphosphoric triamide | 40 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | methyl 4,5-dichloro-6-[(1-ethoxymethyl-pyrazol-5-yl)-hydroxymethyl]-1,3-benzodioxole-2-carboxylate | 5.9 g, Yield: 75% | ClC1=C(C(=CC=2OC(OC21)C(=O)OC)C(O)C2=CC=NN2COCC)Cl | C16H16Cl2N2O6
